US06514971B1
The starting material, 4-hydroxy-6,7-dimethoxycinnoline was obtained by adding a solution of sodium nitrite (1.9 g, 27 mmol) to a solution of 2-amino-4,5-dimethoxyacetophenone (5 g, 0.025 mol) in acetic acid (90 ml) and sulphuric acid (15 ml) at a rate to maintain the temperature below 20° C. The mixture was heated at 80° C. for 90 minutes. After cooling and concentrating the solution to half its original volume, the residue was poured into ether (800 ml). The solid was collected by filtration and suspended in water (200 ml). After adjusting to pH7 with sodium hydroxide the solid was filtered, washed with water, methanol and methylene chloride to give 4-hydroxy-6,7-dimethoxycinnoline (4.5 g, 87%).

reactant | sodium nitrite | 27 mmol, 1.9 g | N(=O)[O-].[Na+]
reactant | 2-amino-4,5-dimethoxyacetophenone | 0.025 mol, 5 g | CC(=O)C1=CC(=C(C=C1N)OC)OC | C10H13NO3
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | 4-hydroxy-6,7-dimethoxycinnoline | 4.5 g, 87% | OC1=CN=NC2=CC(=C(C=C12)OC)OC | C10H10N2O3
